US06096781
2-Phenylbenzo[b]thiophene
2-Phenylthioacetophenone (63.8 g) was added to 450 g of polyphosphoric acid at 100° C. and then heated further to 190° C. for three hours. The reaction was allowed to cool below 100° C. before pouring it into a mixture of ice and water. The aqueous solution was extracted with ether. The ether layer was dried with magnesium sulfate and evaporated to yield a tan, amorphous solid. The residue was crystallized from acetone-ethanol to give 35.2 g of the title compound. mp 171° C.-172° C.

reactant | 2-Phenylthioacetophenone | 63.8 g | C1(=CC=CC=C1)CC(=S)C1=CC=CC=C1 | C14H12S
solvent | water | O | H2O
product | 2-Phenylbenzo[b]thiophene | 35.2 g | C1(=CC=CC=C1)C1=CC2=C(S1)C=CC=C2 | C14H10S
